US08802670B2
To a solution of 2,2-dimethylpiperazine (400 mg) and triethylamine (0.59 mL) in dichloromethane (10 mL) at 0° C. was added dropwise methanesulfonyl chloride (0.30 mL). The reaction mixture was stirred at room temperature for 16 h and then quenched with water (10 mL) and extracted into dichloromethane (2×20 mL). The combined organic layers were washed with saturated aqueous brine solution (2×20 mL), dried (MgSO4) and concentrated to afford 1-methanesulfonyl-3,3-dimethyl-piperazine as a white solid (412 mg, 61%).

reactant | 2,2-dimethylpiperazine | 400 mg | CC1(NCCNC1)C | C6H14N2
reactant | triethylamine | 0.59 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.30 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-methanesulfonyl-3,3-dimethyl-piperazine | 412 mg, 61% | CS(=O)(=O)N1CC(NCC1)(C)C | C7H16N2O2S
